Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o liver transplant ___ (HBV) on prograf, IDDM, HLD 
with chest pain. Briefly, pt developed severe 
epigastric/substernal pain this morning. Pain was severe and 
woke him up. He describes it as crampy, nonradiating. Pain was 
constant and unremitting, lasting for approximately 3 hours. It 
was associated with 3x episodes of vomiting with some relief of 
pain. It was not affected by position. No 
light-headedness/dizziness. No abdominal pain. Pt notes he had a 
very large meal earlier that night. He has never had this type 
of pain before. He has never had an esopohogram before and 
denies any history of DES. No history of esophageal injury. No 
recent dysphagia/odynophagia. No recent sick contacts/illnesses. 
Mild SOB, which patient attributes to not being able to take a 
deep breath from pain.

In the ambulance, pt received 2x nitro without improvement in 
sx.

On admission to the ED, VS were: 96.4 100 97/62 20 97% 4L. Labs 
significant for Cr 1.4, ALT/AST: ___, AP 86, TBili 0.5, Lipase 
42. Trops negative x2. EKG grossly unchanged from prior. CTA 
negative for PE, and CXR negative for any acute process. Pt was 
given zofran, morphine x2, GI ocktail, donnatal with improvement 
in symptoms. Pt desated to 92% on RA, and he was placed back on 
nasal cannula and admitted for workup of chest pain an hypoxia.

On arrival, VS were: 99.5; 130/85; 80; 16; 97% 2LNC. Pt reported 
feeling much better. He continues to have some mild chest pain 
which is worse with deep breaths.

 
Past Medical History:
HepB cirrhosis s/p OLT in ___
-On Prograf
Hepatitis B on ___ and HepaGam
IDDM
HLD

 
Social History:
___
Family History:
DM, HTN, HLD
 
Physical Exam:
On Admission:
General: Pleasant, well-appearing NAD.
HEENT: NC/AT. MMM. EOMI.
LAD: No LAD appreciated
CV: RRR. No MRG.
Pulmonary: CTAB. No wheezes, rales, rhonchi
Abdomen: +BS. Soft, NTND. Long horizontal incision over 
epigastric region well-healed. No HSM appreciated.
Extremities: WWP. 2+ DP pulese, equal bilaterally. No c/c/e
Neuro: CNII-XII grossly intact

On Discharge:
General: Pleasant, well-appearing NAD.
HEENT: NC/AT. MMM. EOMI.
LAD: No LAD appreciated
CV: RRR. No MRG.
Pulmonary: CTAB. No wheezes, rales, rhonchi
Abdomen: +BS. Soft, NTND. Long horizontal incision over 
epigastric region well-healed. No HSM appreciated.
Extremities: WWP. 2+ DP pulese, equal bilaterally. No c/c/e
Neuro: CNII-XII grossly intact
 
Pertinent Results:
On Admission:
___ 05:30AM BLOOD WBC-10.5# RBC-4.63 Hgb-14.6 Hct-40.7 
MCV-88 MCH-31.6 MCHC-36.0* RDW-14.8 Plt ___
___ 05:30AM BLOOD ___ PTT-23.1* ___
___ 05:30AM BLOOD Glucose-216* UreaN-22* Creat-1.4* Na-139 
K-4.4 Cl-101 HCO3-27 AnGap-15
___ 05:30AM BLOOD ALT-23 AST-26 AlkPhos-86 TotBili-0.5

Troponins:
___ 05:30AM BLOOD cTropnT-<0.01
___ 11:36AM BLOOD cTropnT-<0.01

On Discharge:
___ 04:35AM BLOOD WBC-8.1 RBC-4.40* Hgb-13.8* Hct-39.1* 
MCV-89 MCH-31.3 MCHC-35.3* RDW-14.3 Plt ___
___ 04:35AM BLOOD ___ PTT-28.4 ___
___ 04:35AM BLOOD Glucose-145* UreaN-23* Creat-1.4* Na-139 
K-4.6 Cl-98 HCO3-30 AnGap-16
___ 04:35AM BLOOD ALT-19 AST-23 AlkPhos-79 TotBili-0.9
___ 04:35AM BLOOD Calcium-9.5 Phos-1.8* Mg-1.9
___ 04:35AM BLOOD tacroFK-3.1*

Microbiology:
None

Imaging:
___ CTA Chest
IMPRESSION:  
1. No pulmonary embolism. 
2. Small pericardial effusion. 
3. Few pulmonary nodules measuring up to 4 mm.  Followup in ___ 
year is 
recommended there is high risk for lung malignancy. 
4. Paraesophageal varices. 

___ CXR:
IMPRESSION:    
1.  Mild vascular congestion. 
2.  Chronic small right pleural effusion versus pleural 
thickening. 
2.  Left lower lobe atelectasis with elevation of left 
hemidiaphragm. 

___ ECG:
Sinus rhythm. Compared to the previous tracing of ___ there 
are no 
significant changes. 

 
Brief Hospital Course:
___ with pmhx of HBV cirrhosis (sp xplant in ___, IDDM, HLD, 
CKD, h/o strongyloides, h/o fasciola who presented with SSCP 
following a large meal. 

#Chest pain: Felt to be esophageal spasm in the setting of GERD. 
EKG unchanged from prior and tropopnins were negative. CTA 
otherwise negative for PE. Pt was started on a PPI, and he had 
only minor recurrence of chest pain after coming to the floor. 
Pt was discharged with a PPT as well as a plan for follow up EGD 
with possible barium swallow.

#Shortness of Breath: Pt's shortness of breath was felt to be 
related to his inability to take a deep breath due to pain. His 
desaturation in the ED may have been related to the pain 
medications he was administered. Pt's oxygen was quickly weanes 
off an admission, and his respiratory status remained stable 
during this admission.

#Hepatitis B: Pt was continued on ___

#Cirrhosis s/p OLT: MELD score 10. Pt was continued on home 
Prograf. Level was 3.1 on morning of discharge.

#Pulmonary nodules: Pt was incidentally found to have pulmonary 
nodules on CTA, and it was recommended that they be followed up 
in ___ year if pt felt to be high risk for malignancy.

Transitional:
[] Please consider up-titration of PPI
[] Pt will be scheduled for follow-up EGD +/- barium swallow - 
manometry may be indicated in the future
[] Consider f/u of pulmonary nodules in ___ year
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 40 mg PO QPM 
2. Phosphorus 250 mg PO TID W/MEALS 
3. Amoxicillin ___ mg PO ONE HOUR PRIOR TO DENTAL SURGERY 
4. Tacrolimus 0.5 mg PO Q12H 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Entecavir 1 mg PO DAILY 
7. Escitalopram Oxalate 10 mg PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. GlipiZIDE 7.5 mg PO QAM 
10. GlipiZIDE 10 mg PO QPM 
11. Calcitriol 0.25 mcg PO BID 
12. Glargine 28 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
13. Hepatitis B Immun Globulin (HepaGam B) 5000 UNIT IV Q4 
MONTHS 

 
Discharge Medications:
1. Calcitriol 0.25 mcg PO BID 
2. Entecavir 1 mg PO DAILY 
3. Escitalopram Oxalate 10 mg PO DAILY 
4. Glargine 28 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Phosphorus 250 mg PO TID W/MEALS 
7. Pravastatin 40 mg PO QPM 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Tacrolimus 0.5 mg PO Q12H 
10. Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
11. Amoxicillin ___ mg PO ONE HOUR PRIOR TO DENTAL SURGERY 
___. GlipiZIDE 7.5 mg PO QAM 
13. GlipiZIDE 10 mg PO QPM 
14. Hepatitis B Immun Globulin (HepaGam B) 5000 UNIT IV Q4 
MONTHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Esophageal spasm
Gastroesophageal reflux disease
Chest pain

Secondary:
Diabetes
Chronic kidney disease
Hepatitis B
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___, 

___ was a pleasure to participate in your care. You were admitted 
for chest pain. You were found to have no evidence of cardiac 
ischemia or pulmonary embolism. Your symptoms improved with a 
proton pump inhibitor. We believe that your symptoms may have 
been due to gastric reflux or esophageal spasm. Please follow up 
with your Gastroenterologist for outpatient endoscopy and barium 
enema. 

Best Regards,
Your ___ Medicine Team
 
Followup Instructions:
___